US04107205
Substitution of equivalent quantities of α-[2-(diisopropylamino)ethyl]-α-(2-pyridyl)acetonitrile and 1-(2-chloroethyl)piperidine for α-[2-(diisopropylamino)ethyl]-α-phenylacetonitrile and 2-chloro-N,N-diisopropylethylamine called for respectively in the procedure of Example 2, Method B affords α-[2-(diisopropylamino)ethyl]-α-(2-piperidinoethyl)-α-(2-pyridyl)acetonitrile, as an oil boiling at about 160°-170° C. at 0.5-0.7 mm. pressure.

reactant | α-[2-(diisopropylamino)ethyl]-α-(2-pyridyl)acetonitrile | C(C)(C)N(CCC(C#N)C1=NC=CC=C1)C(C)C | C15H23N3
reactant | 1-(2-chloroethyl)piperidine | ClCCN1CCCCC1 | C7H14ClN
reactant | α-[2-(diisopropylamino)ethyl]-α-phenylacetonitrile | C(C)(C)N(CCC(C#N)C1=CC=CC=C1)C(C)C | C16H24N2
reactant | 2-chloro-N,N-diisopropylethylamine | ClCCN(C(C)C)C(C)C | C8H18ClN
product | α-[2-(diisopropylamino)ethyl]-α-(2-piperidinoethyl)-α-(2-pyridyl)acetonitrile | C(C)(C)N(CCC(C#N)(C1=NC=CC=C1)CCN1CCCCC1)C(C)C | C22H36N4
